US06562823B1
Step A: Preparation of 2,6-Dichloro-4-methylphenyl Trifluoromethanesulfonate
To a solution of 2,6-dichloro-p-cresol (25.20 g, 142 mmol) in 250 mL of dichloromethane at 0° C. was added pyridine (17.3 mL, 213 mmol), followed by dropwise addition of trifluoromethanesulfonic anhydride (23.9 mL, 142 mmol). The solution was allowed to warm to room temperature overnight, and was then concentrated to a 100 mL volume in vacuo. The solution was poured into 0.5 L of EtOAc, washed with saturated NH4Cl solution, saturated NaHCO3 solution and brine, dried (Na2SO4), filtered, and concentrated in vacuo to provide the titled product which was used in the next step without further purification.

reactant | 2,6-dichloro-p-cresol | 142 mmol, 25.20 g | ClC1=CC(=CC(=C1O)Cl)C | C7H6Cl2O
reactant | pyridine | 213 mmol, 17.3 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 142 mmol, 23.9 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
product | 2,6-Dichloro-4-methylphenyl Trifluoromethanesulfonate | FC(S(=O)(=O)OC1=C(C=C(C=C1Cl)C)Cl)(F)F | C8H5Cl2F3O3S
